US04226876
A solution of methyl isothiocyanate (1.46 g; 0.20 mole) in chloroform (10 ml) was added dropwise during 10 minutes, to a stirred solution of 2-(2,3-dimethylphenoxymethyl)-2-imidazoline (4.08 g; 0.020 moles) prepared as in Example 1--in chloroform (50 ml) cooling to keep the reaction below 5° C. The reaction mixture was then allowed to warm to room temperature and finally refluxed for 5 hours. Chloroform was then evaporated in vacuo and the residue recrystallised from isopropanol to yield white crystals of 2-(2,3-dimethylphenoxymethyl)-1-N-methylthiocarbamoyl-2-imidazoline, m.p. ca 100° C. with decomposition.

reactant | methyl isothiocyanate | 0.20 mole, 1.46 g | CN=C=S | C2H3NS
reactant | 2-(2,3-dimethylphenoxymethyl)-2-imidazoline | 0.020 moles, 4.08 g | CC1=C(OCC=2NCCN2)C=CC=C1C | C12H16N2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,3-dimethylphenoxymethyl)-1-N-methylthiocarbamoyl-2-imidazoline | CC1=C(OCC=2N(CCN2)C(NC)=S)C=CC=C1C | C14H19N3OS
